US04910282
As shown by reaction (1), 4,-4-difluorobenzophenone is reacted with 3-hydroxybenzoic acid to obtain 3-[4-(4-fluorobenzoyl)phenoxy]benzoic acid. The reaction is carried out in a suitable aprotic solvent, such as dimethylsulfoxide or N,N-dimethylformamide, under an inert atmosphere, at an elevated temperature of about 100° to 140° C. for about 8 to 64 hours. The 3-[4-(4-fluorobenzoyl)phenoxy]benzoic acid (A) is then reacted with 3-aminophenol, as shown by reaction (2) to obtain 3-[4-(3-aminophenoxybenzoyl)phenoxy]benzoic acid (B). This reaction is carried out in a suitable aprotic solvent, under an inert atmosphere, at an elevated temperature of about 100° to 140° C. for about 8 to 64 hours. At the end of the reaction period, the reaction mixture is cooled, then poured into water, which is then neutralized to precipitate the monomer (B). If desired, the crude monomer can be purified by recrystallization or by dissolving it in a suitable solvent and precipitating it from solution into a suitable non-solvent.

reactant | 4,-4-difluorobenzophenone | FC1(CC=C(C(=O)C2=CC=CC=C2)C=C1)F | C13H10F2O
reactant | 3-hydroxybenzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
product | 3-[4-(4-fluorobenzoyl)phenoxy]benzoic acid | FC1=CC=C(C(=O)C2=CC=C(OC=3C=C(C(=O)O)C=CC3)C=C2)C=C1 | C20H13FO4
